US08349880B2
Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide, (1.928 g, 6.95 mmol, from preparation F) and 2-(4-fluorophenyl)pent-4-enoic acid (1.62 g, 8.34 mmol, from preparation AA) were coupled using a procedure analogous to Step A of Example 1 to afford methyl N′-2-(4-fluorophenyl)pent-4-enoyl-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)carbamimidothioate (1.62 g, 3.57 mmol, 64% yield) as a white solid. LC-MS (M+H)+=454.2.

reactant | Methyl 3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | I.COC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC
reactant | 2-(4-fluorophenyl)pent-4-enoic acid | 8.34 mmol, 1.62 g | FC1=CC=C(C=C1)C(C(=O)O)CC=C | C11H11FO2
product | methyl N′-2-(4-fluorophenyl)pent-4-enoyl-N-(3-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)carbamimidothioate | 3.57 mmol, 1.62 g, 64% yield | FC1=CC=C(C=C1)C(C(=O)N=C(NC1=CC(=C(C=C1)N1N=C(N=C1)C)OC)SC)CC=C | C23H24FN5O2S
